US08648066B2
A solution of methyl 2-hydroxy-5,5-dimethylcyclohex-1-enecarboxylate (10.0 g, 54 mmol) and ammonium acetate (10 g, 130 mmol) in ethanol (50 mL) was heated to reflux for 2 hours. The reaction was concentrated to one third original volume, and then diluted with ethyl acetate (100 mL). The organic solution was washed with water (100 mL) and brine (50 mL) and then dried over anhydrous sodium sulfate. After filtration and concentration, the residue was purified by silica gel column chromatography (ethyl acetate/hexanes, 1:8) to afford methyl 2-amino-5,5-dimethylcyclohex-1-enecarboxylate (7.42 g, 75% yield) as a yellow solid. MS (EI) for C10H17NO2: 184 (MH+).

reactant | methyl 2-hydroxy-5,5-dimethylcyclohex-1-enecarboxylate | 54 mmol, 10.0 g | OC1=C(CC(CC1)(C)C)C(=O)OC | C10H16O3
reactant | ammonium acetate | 130 mmol, 10 g | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | methyl 2-amino-5,5-dimethylcyclohex-1-enecarboxylate | 7.42 g, 75% yield | NC1=C(CC(CC1)(C)C)C(=O)OC | C10H17NO2
